US04892882
To a solution of 1.33 g of 5-chloromethyl-3-hydroxyisoxazole in 2 ml of dimethylformamide were added 2.0 g of N-bromosuccinimide, and then the mixture was heated at 61° C. for 1.5 hours. The reaction mixture was then poured into 100 ml of ice-water and extracted with diethyl ether, after which the ethereal extract was dried over anhydrous sodium sulphate. The solvent was distilled off, leaving crystals, which were recrystallized from a mixture of diisopropyl ether and hexane, giving 4-bromo-5-chloromethyl-3-hydroxyisoxazole, in the form of white crystals melting at 136.5°-138° C. (with decomposition).

reactant | 5-chloromethyl-3-hydroxyisoxazole | 1.33 g | ClCC1=CC(=NO1)O | C4H4ClNO2
reactant | N-bromosuccinimide | 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-bromo-5-chloromethyl-3-hydroxyisoxazole | BrC=1C(=NOC1CCl)O | C4H3BrClNO2
